US05939392
TfO-CH2COOnBu
Prepared in the same way as described for TfO-CH2COOMe starting with butylglycolate.

reactant | TfO-CH2COOMe | S(=O)(=O)(C(F)(F)F)OCC(=O)OC | C4H5F3O5S
reactant | butylglycolate | C(CCC)C(C(=O)[O-])O
product | TfO-CH2COOnBu | S(=O)(=O)(C(F)(F)F)OCC(=O)OCCCC | C7H11F3O5S
